US06211215B1
A mixture of ethyl 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2-imidazolecarboxylate (300 mg), 1N aqueous sodium hydroxide (1.32 ml) and tetrahydrofuran (3 ml) was stirred for 2 hours at room temperature. To the reaction mixture were added 1N hydrochloric acid (1.32 ml) and then water. The resulting crystalline precipitate was collected by filtration and washed with ether. Recrystallization from tetrahydrofuran gave 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]-phenyl]propyl]-2-imidazolecarboxylic acid (176 mg, 63%) as colorless prisms, mp 116° C. (decomp.).

reactant | ethyl 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2-imidazolecarboxylate | 300 mg | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C(=NC=C1)C(=O)OCC | C27H27N3O4
reactant | sodium hydroxide | 1N, 1.32 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 1.32 ml | Cl | ClH
solvent | water | O | H2O
product | 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]-phenyl]propyl]-2-imidazolecarboxylic acid | 176 mg, 63% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C(=NC=C1)C(=O)O | C25H23N3O4
